US09315521B2
This example was synthesized from 5-(chloromethyl)-1-cyclopentyl-1H-imidazole and 6-methyl-2-sulfanylpyrimidin-4-ol following the general procedure as shown in the last step of Example 109 to provide 2-{[(1-cyclopentyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as a white solid (700 mg, 50% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.61 (m, 2H), 1.79 (m, 4H), 2.10 (m, 2H), 2.21 (s, 3H), 4.48 (s, 2H), 4.54 (m, 1H), 6.02 (br, 1H), 6.88 (s, 1H), 7.73 (s, 1H); M+291.

reactant | 5-(chloromethyl)-1-cyclopentyl-1H-imidazole | ClCC1=CN=CN1C1CCCC1 | C9H13ClN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 2-{[(1-cyclopentyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 700 mg, 50% yield | C1(CCCC1)N1C=NC=C1CSC1=NC(=CC(=N1)O)C | C14H18N4OS
